US05451601
20 cm3 of dioxane and 20 cm3 of 6.3N hydrochloric acid are added to 1.8 g of (3aRS,7aRS)-2-tert-butyloxy-carbonyl-4,4-diphenyl-7,7-difluoroperhydroisoindole. After stirring for 20 hours at room temperature, the white suspension obtained is concentrated to dryness at 40° C. under reduced pressure (2.7 kPa). The residue is washed with diisopropyl oxide, the solid obtained is drained and then dried. 1.51 g of (3aRS,7aRS)-4,4-diphenyl-7,7-difluoroperhydroisoindole hydrochloride are obtained in the form of a white solid.

reactant | hydrochloric acid | 6.3N, 20 cm3 | Cl | ClH
reactant | (3aRS,7aRS)-2-tert-butyloxy-carbonyl-4,4-diphenyl-7,7-difluoroperhydroisoindole | 1.8 g | C(C)(C)(C)ON1C(C2C(CCC(C2C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F)=C=O | C25H27F2NO2
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | (3aRS,7aRS)-4,4-diphenyl-7,7-difluoroperhydroisoindole hydrochloride | 1.51 g | Cl.C1(=CC=CC=C1)C1(C2CNCC2C(CC1)(F)F)C1=CC=CC=C1 | InChI=1S/C20H21F2N.ClH/c21-20(22)12-11-19(15-7-3-1-4-8-15,16-9-5-2-6-10-16)17-13-23-14-18(17)20;/h1-10,17-18,23H,11-14H2;1H
